US04391627
Benzothiophene-3-sulfonyl isocyanate
Ten grams of benzothiophene-3-sulfonamide, 100 ml of xylene, 3 g. of butyl isocyanate and 0.1-0.3 g. of 1,4-diazabicyclo[2,2,2]octane in admixture were heated to reflux for one half hour after which phosgene was passed into the mixture for two hours at 125°. The reaction mixture was cooled, filtered and concentrated in vacuo to yield an oil (12 g.). Infrared analysis of this oil showed an absorption peak at 2250 cm-1 consistent for the desired isocyanate.

reactant | benzothiophene-3-sulfonamide | Ten grams | S1C=C(C2=C1C=CC=C2)S(=O)(=O)N | C8H7NO2S2
reactant | butyl isocyanate | C(CCC)N=C=O | C5H9NO
reactant | 1,4-diazabicyclo[2,2,2]octane | N12CCN(CC1)CC2 | C6H12N2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | isocyanate | [N-]=C=O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Benzothiophene-3-sulfonyl isocyanate | S1C=C(C2=C1C=CC=C2)S(=O)(=O)N=C=O | C9H5NO3S2
